US07326511B2
Synthesis of N-(2-cyclohexylsulfanyl-ethanesulfonyloxy)-5-norbornene-2,3-dicarboximide
A solution of 5.38 g (30.0 mmol) of N-hydroxy-5-norbornene-2,3-dicarboximide in THF (75 ml) is treated successively with 2-chloroethanesulfonyl chloride (3.47 ml, 33.0 mmol) and triethylamine (9.6 ml, 69.0 mmol) while cooling over an ice-bath. After stirring for 1 h at 0° C. triethylamine (6.3 ml, 45.0 mmol) is added first, followed by the addition of cyclohexanethiol (4.05 ml, 33.0 mmol). The beige suspension is further stirred for 1 h at room temperature, then poured into water (140 ml) and extracted two times with ethyl acetate (300 ml). The combined organic phases are washed with water (300 ml), dried over MgSO4, and concentrated. The residue is purified by flash chromatography on silica gel with hexane and ethyl acetate (7:3) as eluent, yielding 9.22 g of the product as a white solid. The, structure is confirmed by the 1H-NMR spectrum (CDCl3). δ [ppm]: 1.21-1.40 (m, 6H), 1.50-1.56 (m, 1H), 1.58-1.67 (m, 1H), 1.74-1.85 (m, 3H), 1.92-2.04 (m, 2H), 2.67-2.79 (m, 1H), 3.03-3.11 (m, 2H), 3.34 (s, 2H), 3.48 (s, 2H), 3.62-3.70 (m, 2H), 6.19 (s, 2H). mp. 96-98° C.

reactant | N-hydroxy-5-norbornene-2,3-dicarboximide | 30.0 mmol, 5.38 g | ON1C(=O)C2C3C=CC(C2C1=O)C3 | C9H9NO3
reactant | 2-chloroethanesulfonyl chloride | 33.0 mmol, 3.47 ml | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | triethylamine | 69.0 mmol, 9.6 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 45.0 mmol, 6.3 ml | C(C)N(CC)CC | C6H15N
reactant | cyclohexanethiol | 33.0 mmol, 4.05 ml | C1(CCCCC1)S | C6H12S
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | water | 140 ml | O | H2O
product | N-(2-cyclohexylsulfanyl-ethanesulfonyloxy)-5-norbornene-2,3-dicarboximide | 9.22 g | C1(CCCCC1)SCCS(=O)(=O)ON1C(=O)C2C3C=CC(C2C1=O)C3 | C17H23NO5S2
